US07863288B2
Step 4—Preparation of 2-Fluoro-3-(5-thiophen-2-yl-1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)-phenol (P-0052)
To (2-fluoro-3-hydroxy-phenyl)-(5-thiophen-2-yl-1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone (P-0521, 50.0 mg, 0.15 mmol) in diethylene glycol (5.0 mL) were added hydrazine hydrate (1.0 mL, 0.020 mol) and potassium hydroxide (200.0 mg, 3.56 mmol). The reaction mixture was heated in a CEM Discovery microwave instrument at 180° C. for 20 minutes, poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The desired compound was isolated by silica gel column chromatography eluting with 5% methanol in methylene chloride to give a white solid (P-0052, 10 mg, 20%). MS (ESI) [M+H+]+=325.2.

reactant | (2-fluoro-3-hydroxy-phenyl)-(5-thiophen-2-yl-1H-pyrrolo[2,3-b]pyridin-3-yl)-methanone | 0.15 mmol, 50.0 mg | FC1=C(C=CC=C1O)C(=O)C1=CNC2=NC=C(C=C21)C=2SC=CC2 | C18H11FN2O2S
reactant | hydrazine hydrate | 0.020 mol, 1.0 mL | O.NN
reactant | potassium hydroxide | 3.56 mmol, 200.0 mg | [OH-].[K+]
reactant | water | O | H2O
solvent | diethylene glycol | 5.0 mL | C(COCCO)O | C4H10O3
product | 2-Fluoro-3-(5-thiophen-2-yl-1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)-phenol | FC1=C(C=CC=C1CC1=CNC2=NC=C(C=C21)C=2SC=CC2)O | C18H13FN2OS
